US06509324B1
A) N-[(Phenylmethoxy)carbonyl]-L-tryptophan 1,1-Dimethylethyl Ester
To a suspension of N-[(phenylmethoxy)carbonyl]-L-tryptophan (33.27 g; 98.32 mol) (previously prepared by reacting L-tryptophan with CBZCl, in H2O and 1N NaOH), benzyltriethylammonium chloride (BTEAC) (22.4 g; 98.32 mol) and K2CO3 (176.91 g; 1.28 mol) in dimethylacetamide (750 mL) is added tert-butyl bromide (265 mL; 2.36 mol). The solution is heated to 55° C. and vigorously stirred for 19 hours. The mixture is then cooled to room temperature, diluted with H2O (3L) and then extracted with EtOAc (2×1L). The organic phases are evaporated to dryness to obtain the title product as a pale yellow oil (36 g; 98 mol)

reactant | N-[(phenylmethoxy)carbonyl]-L-tryptophan | 98.32 mol, 33.27 g | C1(=CC=CC=C1)COC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C19H18N2O4
reactant | L-tryptophan | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | CBZCl | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
reactant | NaOH | 1N | [OH-].[Na+]
reactant | K2CO3 | 1.28 mol, 176.91 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl bromide | 2.36 mol, 265 mL | C(C)(C)(C)Br | C4H9Br
solvent | H2O | O | H2O
catalyst | benzyltriethylammonium chloride | 98.32 mol, 22.4 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dimethylacetamide | 750 mL | CC(=O)N(C)C | C4H9NO
product | N-[(Phenylmethoxy)carbonyl]-L-tryptophan 1,1-Dimethylethyl Ester | 98 mol, 36 g, Yield: 99% | CC(C)(C)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CNC2=CC=CC=C12)=O | C23H26N2O4
